US08609849B1
3-(2-Fluoro-phenyl)-3-hydroxy-butyronitrile was prepared by the same procedure of 3-(2-fluoro-phenyl)-3-hydroxy-propionitrile from 1-(2-fluoro-phenyl)-ethanone in example 6.

reactant | 3-(2-fluoro-phenyl)-3-hydroxy-propionitrile | FC1=C(C=CC=C1)C(CC#N)O | C9H8FNO
reactant | 1-(2-fluoro-phenyl)-ethanone | FC1=C(C=CC=C1)C(C)=O | C8H7FO
product | 3-(2-Fluoro-phenyl)-3-hydroxy-butyronitrile | FC1=C(C=CC=C1)C(CC#N)(C)O | C10H10FNO
